US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole (70 mg, 0.21 mmol), 3-fluorophenylboronic acid (60 mg, 0.43 mmol), and Pd(PPh3)4 (25 mg, 0.022 mmol) in a solution of ethylene glycol dimethyl ether (3 mL) and 2M sodium carbonate (3 mL) was heated in a sealed vial at 100° C. for 1 hour. Standard work up and silica gel chromatography using a mixture of hexane:ethyl acetate:dichloromethane (3.5:0.5:4), followed by trituration with diethyl ether afforded 27 mg (36%) of 3-(2-pyridyl)-5-(3-cyano-5-(3-fluorophenyl)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3):δ-8.86 (d, 1H), 8.70 (s, 1H), 8.55 (s, 1H), 8.24 (d, 1H), 8.07 (s, 1H), 7.91 (t, 1H), 7.49 (m, 3H), 7.40 (m, 1H), 7.19 (m, 1H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-cyanophenyl)-1,2,4-oxadiazole | 0.21 mmol, 70 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)Br | C14H7BrN4O
reactant | 3-fluorophenylboronic acid | 0.43 mmol, 60 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane ethyl acetate dichloromethane | CCCCCC.C(C)(=O)OCC.ClCCl
product | 3-(2-pyridyl)-5-(3-cyano-5-(3-fluorophenyl)phenyl)-1,2,4-oxadiazole | 27 mg, 36% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=CC(=CC=C1)F)C#N | C20H11FN4O
